US05236937
(EXAMPLE 7B): 4-Amino-2,6-diethylpyridine (1.8 g) was added to a solution of iodine (3.1 g) and [bis(trifluoroacetoxy)iodo]benzene (5.7 g) in a mixture of dichloromethane (70 ml) and methanol (20 ml) and the mixture was stirred for 16 hours. Solvent was removed by evaporation and the residue was partitioned between ethyl acetate and a mixture of saturated sodium metabisulphite solution (50 ml) and saturated sodium carbonate solution (150 ml). The organic phase was separated, washed with saturated sodium chloride solution and dried. Solvent was removed by evaporation and the residue was purified by flash chromatography eluting with dichloromethane/methanol (97:3 v/v) to give 4-amino-2,6-diethyl-3-iodopyridine (1.33 g) as a solid, m.p. 72°-74° C.; NMR (CDCl3): 1.25(m,6H), 2.65(q,2H), 2.96(q,2H), 4.59(broad s,2H), 6.30(s,1H); mass spectrum (chemical ionisation, ammonia): 277(M+H)+.

reactant | 4-Amino-2,6-diethylpyridine | 1.8 g | NC1=CC(=NC(=C1)CC)CC | C9H14N2
reactant | iodine | 3.1 g | II | I2
reactant | [bis(trifluoroacetoxy)iodo]benzene | 5.7 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 4-amino-2,6-diethyl-3-iodopyridine | 1.33 g | NC1=C(C(=NC(=C1)CC)CC)I | C9H13IN2
